US04812583
A 1.4M solution of n-butyllithium in hexane (2.6 mL, 3.61 mmol) was added dropwise under a nitrogen atmosphere to a solution of (E)-2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]-3,5-dimethyl-α-propylbenzenemethanol (956.8 mg, 3.01 mmol) in 100 mL of dry THF. After the addition, the solution was stirred at room temperature for 15 minutes. 2,2-Dimethylbutyryl chloride (500 μl, 3.61 mmol) was then added and the solution stirred at room temperature for 30 minutes. The reaction was partitioned between 1N HCl-EtoAc and extracted. The organic layer was washed with water (two times), dried (anh. K2CO3) and the solvent removed under reduced pressure. Purification of the residual oil on 250 g of silica gel (Merck, 230-400 mesh) using 3:2 CH2Cl2 -hexane as an eluent gave 2,2-dimethylbutanoic acid (E)-1-[2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]-3,5-dimethylphenyl]butyl ester (534 mg, 43%) as an oil: IR (film) 2945, 2860, 1720 and 1605 cm-1 ; NMR (DMSO-d6) δ 0.68-0.80 (6H, m), 0.86 (3H, t, J=6 Hz), 1.07 (3H, s), 1.08 (3H, s), 1.12 (3H, s), 1.14-1.44 (2H, m), 1.46-1.66 (3H, m), 1.68-1.86 (1H, m), 1.18 (3H, s), 2.23 (3H, s), 3.54 (2H, d, J=10 Hz), 3.64 (2H, d, J=10 Hz), 5.09 (1H, d, J=5 Hz), 5.68 (1H, dd, J=5, 15 Hz), 5.74-5.86 (1H, m), 6.78 (1H, d, J=15 Hz), 6.98 (2H, s).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 3.61 mmol, 2.6 mL | CCCCCC | C6H14
reactant | (E)-2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]-3,5-dimethyl-α-propylbenzenemethanol | 3.01 mmol, 956.8 mg | CC1(COC(OC1)/C=C/C1=C(C=C(C=C1C)C)C(O)CCC)C | C20H30O3
reactant | 2,2-Dimethylbutyryl chloride | 3.61 mmol, 500 μl | CC(C(=O)Cl)(CC)C | C6H11ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2-dimethylbutanoic acid (E)-1-[2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]-3,5-dimethylphenyl]butyl ester | 534 mg, 43% | CC1(COC(OC1)/C=C/C1=C(C=C(C=C1C)C)C(CCC)OC(C(CC)(C)C)=O)C | C26H40O4
